US04405789
The operation is as in Example 1, but starting from 5.9 g of 4-[2-(2-methyl-3-indolyl)-ethyl]-piperidine and 0.12 g of triethylbenzylammonium chloride in 60 ml of chloroform and 7.5 g of sodium hydroxide in 15 ml of water. 2.7 g of 2-methyl-3-chloro-4-[2-(4-piperidyl)-ethyl]-quinoline are finally obtained in the form of the monohydrochloride which melts at 255° C.

reactant | 4-[2-(2-methyl-3-indolyl)-ethyl]-piperidine | 5.9 g | CC=1NC2=CC=CC=C2C1CCC1CCNCC1 | C16H22N2
reactant | sodium hydroxide | 7.5 g | [OH-].[Na+]
reactant | monohydrochloride | Cl | ClH
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | triethylbenzylammonium chloride | 0.12 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | 15 ml | O | H2O
product | 2-methyl-3-chloro-4-[2-(4-piperidyl)-ethyl]-quinoline | 2.7 g | CC1=NC2=CC=CC=C2C(=C1Cl)CCC1CCNCC1 | C17H21ClN2
